Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Rectal abscess, fistula, 70 lb weight loss and mouth sores
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ male who was healthy until
___ when he developed a rectal abscess.  He presented to
the ED where it was incised and drained.  He then followed up
with his surgeon and had 3 further surgeries.  The last surgery
was followed by a course of antibiotics including ciprofloxacin
and Flagyl after which she developed severe nausea vomiting and
diarrhea.  He completed this course of antibiotics in the first
week of ___.  At this time he started feeling better and 
regaining weight. He also improved to where he was having 
regular
bowel movements.  
Then 6 weeks he developed mouth sores which then resulted in
decreased p.o. intake and increased stomach acid. He tried
drinking ___ to soothe his mouth sores but this then
resulted in an increase in acidity.  He experiences a sour taste
in his mouth after vomiting.  He had nausea with eating and a 
lot
of gas which felt better after burping.  Also when his stomach
was empty he noticed a buildup of nausea and uncomfortable
stomach discomfort.  He called his doctor in ___ who thought
that perhaps he had build up of stomach acid and recommended an
antacid which helped such that a month ago he was eating 3 meals
a day and doing "okay".  10 days ago he returned to work and had
difficulty maintaining his previous diet with frequent small
meals.  He then noticed that 6 days ago his mouth sores came 
back
which made him very worried and thus he sought medical 
attention.
He does not report fevers or shaking chills.  He does not report
chest pain shortness of breath rash, cough or joint pains.  He
has not had night sweats.  His last episode of liquid stool was
today which he associates with decreased p.o. intake.  Whenever
he does not eat for a day he develops liquid stool.  He has had 
a
marked decrease in appetite.  His eating has also become
difficult because of the sores in his mouth which are painful. 
Given the concern about the return of his mouth sores he went to
see Dr. ___ gastroenterology who referred him to the
emergency room.  He has had a 70 pound weight loss since ___.
He has also been quite depressed because at baseline he is
terrified of hospitals and needles.  He has had 2 injections
before ___ and ___ fainted after one.  He has also been in 
severe
pain from his abscess and fistulas and the last 6 months of his
life have really affected his social life.  He is more cranky
irritable and less social.  He also has been told by his manager
that his performance at work has been impaired which is also
stressful.  He also notes that he is often breaking out into
tears and frustration over his poor health.  He denies suicidal
ideation or homicidal ideations.  He just wants to get better 
and
resume his normal life.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Rectal abscess s/p incision and debridement
Fistulectomy ×3
___ placement
 
Social History:
___
Family History:
His mother does not report any family illnesses his is both sets
of grandparents is still alive.  No one has any gastrointestinal
problems.  There is no history of heart attack stroke or 
diabetes
mellitus.
 
Physical Exam:
ADMISSION EXAM:
VITALS: 98.0 PO 105 / 71 L Lying 94 14 99 RA 
GENERAL: Cachectic male, NAD
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx with several apthous ulcers
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, mild tenderness to palpation in
the R mid quadrant, bowel sounds present. No rebound or 
guarding.
RECTUM: ___ in place
b/l fistulas draining mucus at 2, 10, 5 and 7 o'clock
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:

 
Pertinent Results:
ADMISSION LABS:
==============
132  93  8  91   AGap=15 
-----------\
3.8  24  0.7  

Ca: 8.1 Mg: 1.7 P: 3.7

ALT: 6 AP: 129 Tbili: 0.7 Alb: 2.5 
AST: 7 LDH:  Dbili:  TProt:  
___:  Lip: 18     
Other Blood Chemistry:
CRP: 190.7

MICRO:
=====
___  BLOOD CULTURE  Pending  
___  BLOOD CULTURE  Pending  
___  URINE  Final  
___  URINE  Final  
 
Brief Hospital Course:
Mr. ___ is a ___ male with a history of rectal 
abscess s/p I and D, rectal fistulas s/p fistulectomies with 
___ placement now presenting with severe
malnutrition, weight loss, bowel inflammation concerning for 
Crohn's disease.

# CROHN'S DISEASE
# TACHYCARDIA
# SEVERE MALNUTRITION
# ABNORMAL WEIGHT LOSS
# RECTAL FISTULAS
# H/O RECTAL ABSCESS
# MOUTH SORES/APTHOUS ULCERS
Presentation c/w with new diagnosis of Crohn's.  CRP elevated to 
190.7. He was initially tachycardic and hypotensive in the ED, 
improved with IVF's.  GI was consulted on the patient and 
recommended an MRE and possible intiation of steroids pending no 
obvious abscesses on MRE.  However, pt did not want to stay for 
MRE and elected to leave AMA to go home on a plan to ___ prior 
to getting this study done.  He was extensively counseled by 
myself and GI regarding this risks of worsening sepsis, 
complications of untreated Crohn's and high risk for VTE.  
However, he stated that nothing would change his mind at this 
point.  He was treated with IV Zosyn which was switched to 
Augmentin x1 month on discharge pending hopeful GI follow-up in 
___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 600 mg PO BID 
2. Acetaminophen 1000 mg PO BID 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 28 Days 

RX *amoxicillin-pot clavulanate [Augmentin] 875 mg-125 mg 1 tab 
by mouth every 12 hours Disp #*54 Tablet Refills:*0 
2.  Acetaminophen 1000 mg PO BID  
3.  Ibuprofen 600 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Perirectal fistulas likely ___ Crohn's 
Severe malnutrition 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came in with significant weight loss, fevers, and multiple 
___ fistulas.  We recommended that you get an MRI to 
look for abscesses and to consider immunosuppression for your 
likely Crohn's.  However you elected to leave against medical 
advice.  Please seek treatment for your disease as you could 
have worsening infection or complications from your severe GI 
disease.

We are discharging you with some antibiotics to help cover an 
infection so that it does not get worse en route home.  Please 
take these as directed and follow-up with a gastroenterologist 
as soon as you get home.
 
Followup Instructions:
___